US04376204
Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (I; Y=OCH3)
To a solution of 2.9 g. (0.015 mole) of N-methylsaccharin and 2.63 g. (0.03 mole) of methylchloroacetate in 10 ml. of dimethylformamide at 40° C. was added over a period of two hours 864 mg. (0.036 mole) of 99% sodium hydride. Stirring was continued for two hours, maintaining a reaction temperature of 40°-50° C. The reaction mixture was quenched in 150 ml. of 5% hydrochloric acid, and the precipitated product filtered and dried, 3.41 g. (84%).

reactant | N-methylsaccharin | 0.015 mole | CN1S(=O)(=O)C2=CC=CC=C2C1=O | C8H7NO3S
reactant | methylchloroacetate | 0.03 mole | COC(CCl)=O | C3H5ClO2
reactant | sodium hydride | 0.036 mole | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
